US06818643B1
3,4,5-Trimethoxyphenyl-2-oxoacetyl chloride
A stirred suspension of 3,4,5-trimethoxyphenyl-2-oxoacetic acid (1.60 g, 6.66 mmoles) in dry methylene chloride (26 mL) at room temperature was treated with 2M oxalyl chloride in methylene chloride (14 mL, 4 equiv.) and dry dimethylformamide (1 drop). After 3 h the solvents were evaporated. The residue was flushed with dry methylene chloride (3×50 mL) and dried in vacuo for 2 h during which time a solid formed. The crude acid chloride was carried on without further purification.

reactant | 3,4,5-trimethoxyphenyl-2-oxoacetic acid | 6.66 mmoles, 1.60 g | COC=1C=C(C=C(C1OC)OC)C(C(=O)O)=O | C11H12O6
reactant | oxalyl chloride | 2M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 26 mL | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 14 mL, 4 equiv. | C(Cl)Cl | CH2Cl2
product | 3,4,5-Trimethoxyphenyl-2-oxoacetyl chloride | COC=1C=C(C=C(C1OC)OC)C(C(=O)Cl)=O | C11H11ClO5
